US05440044
(5RS)-5-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentan-1-ol
5.1 ml of a Grignard solution (produced from 385 mg of magnesium and 1.76 g of 4-chloro-1-tert-butyldimethylsilyloxybutane in tetrahydrofuran) is instilled at -80° C. in a solution of 370 mg of 6-[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine-2-carbaldehyde in 3 ml of tetrahydrofuran. After 2 hours of stirring at -80° C., the reaction mixture is poured into 10 ml of saturated ammonium chloride solution, shaken out with ethyl acetate, the organic phase is dried and concentrated by evaporation. The residue is dissolved in 10 ml of tetrahydrofuran, mixed with 2.47 g of tetrabutylammonium fluoride and stirred for 17 hours at room temperature. The reaction mixture is poured into 50 ml of diethyl ether, washed with saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/0-30% ethyl acetate. 110 mg of the title compound is obtained as yellow oil.

reactant | 6-[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine-2-carbaldehyde | 370 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(/C=C/C1=CC=CC(=N1)C=O)CCCCCCCC | C33H43NO2Si
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (5RS)-5-Hydroxy-5-{6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-2-pyridyl}-pentan-1-ol | 110 mg | OC(CCCCO)C1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C21H35NO3
